US03966957
N-(1-Benzyl-3-pyrrolidinyl)-3,4,5-trimethoxybenzamide
A mixture of 1.8 g. (0.01 mole) of 3-amino-1-benzylpyrrolidine, 2.4 g. (0.01 mole) of 3,4,5-trimethoxybenzoyl azide, and 25 ml. of dry benzene was stirred 16 hours at room temperature followed by stirring for one hour at about 60°C. The mixture was cooled and 50 ml. of isopropyl ether added to the mixture. The crude crystalline product was separated by filtration and recrystallized from ethyl acetate-isopropyl ether mixture, giving 2.2 g. (60% yield). The melting point of the product after a second recrystallization from the same solvent was 128°-129°C.

reactant | 3-amino-1-benzylpyrrolidine | 0.01 mole | NC1CN(CC1)CC1=CC=CC=C1 | C11H16N2
reactant | 3,4,5-trimethoxybenzoyl azide | 0.01 mole | COC=1C=C(C(=O)N=[N+]=[N-])C=C(C1OC)OC | C10H11N3O4
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(1-Benzyl-3-pyrrolidinyl)-3,4,5-trimethoxybenzamide | 60% yield | C(C1=CC=CC=C1)N1CC(CC1)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C21H26N2O4
